* 277V to 3.3V async buck, 100W
* D=11.9m, t_on=238n, Rload=109m
Vin in 0 277
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 100u
C1 out 0 220u
Rload out 0 109m
Vgate gate 0 PULSE(0 12 0 1n 1n 238n 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
